* d:\esim\an\an.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 /qbar /q vcc vcc CMOSP W=0.9u L=0.18u M=1
m3 gnd /q /qbar gnd CMOSN W=0.36u L=0.18u M=1
m5 vcc /qbar /q vcc CMOSP W=0.9u L=0.18u M=1
m4 /q /qbar gnd gnd CMOSN W=0.36u L=0.18u M=1
m6 net-_m6-pad1_ /wordline /q gnd CMOSN W=0.36u L=0.18u M=1
m2 /qbar /wordline net-_m2-pad3_ gnd CMOSN W=0.36u L=0.18u M=1
* u1  net-_m2-pad3_ /wordline /qbar /q net-_m6-pad1_ port
.tran 10e-12 1e-09 0e-00 UIC

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
